US06632811B2
Step A—Preparation of 2-Amino-4′-fluorobenzophenone
A solution of 4-bromofluorobenzene (1 eq.) in THF was cooled to −78° C. under nitrogen and treated with tert-butyllithium (2.05 eq., 1.6 M solution in pentane) at a rate of 40 ml/h. The internal temperature did not rise above −74° C. The orange solution was stirred at −78° C. for 30 minutes prior to the addition of anthranilonitrile (0.6 eq.) as a solution in THF. The reaction was warmed to 0° C. and stirred for 2 hours. 3N HCl was added to the mixture and stirring continued for 30 minutes. The reaction was diluted with ethyl acetate and the layers were separated. The aqueous layer was back-extracted thrice with ethyl acetate. The combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified via HPLC eluting with 93:7 hexanes/ethyl acetate.

reactant | 4-bromofluorobenzene | 1 eq. | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | tert-butyllithium | 1.6 M, 2.05 eq. | C(C)(C)(C)[Li]
reactant | anthranilonitrile | 0.6 eq. | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | HCl | 3N | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4′-fluorobenzophenone | NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H10FNO
